### PR TITLE
Erdos 975

### PR DESCRIPTION
**Pull request by seewoo5**
There might be a better way to deal with nonnegative irreducible polynomials, and feel free to give a comment on it.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/975.lean [hunk 1]
```diff
@@ -0,0 +1,103 @@
...
+open scoped ArithmeticFunction
+
+namespace Erdos975
+
+/-
+Sum of $\tau(f(n))$ for a function $f : \mathbb{N} \to \mathbb{N}$.
+Here $\tau$ is the divisor counting function, which is `σ 0` in mathlib.
+-/
+noncomputable def Erdos975Sum (f : ℕ → ℕ) (x : ℝ) : ℝ :=
+  ∑ n ∈ Finset.range (⌊x⌋₊ + 1), σ 0 (f n)
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/975.lean]: I think this should work:
```suggestion
  ∑ n ≤ ⌊x⌋₊, σ 0 (f n)
```

File: FormalConjectures/ErdosProblems/975.lean [hunk 2]
```diff
@@ -0,0 +1,103 @@
...
+
+/- Auxiliary definition for nonnegative irreducible polynomials over $\mathbb{Z}$ on $\mathbb{N}$. -/
+def Erdos975NonnegIrredPoly (f : ℕ → ℕ) (g : ℤ[X]) : Prop :=
+  Irreducible g ∧ ∃ N : ℕ, ∀ n ≥ N, f n = g.eval ↑n ∧ 0 ≤ f n
+
+def Erdos975Asymptotic (f : ℕ → ℕ) (c : ℝ) : Prop :=
+  Tendsto (fun x ↦ Erdos975Sum f x / (x * x.log)) (atTop) (nhds c)
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/975.lean]:
```suggestion
  Tendsto (fun x ↦ Erdos975Sum f x / (x * x.log)) atTop (nhds c)
```

File: FormalConjectures/ErdosProblems/975.lean [hunk 3]
```diff
@@ -0,0 +1,103 @@
...
+
+/--
+For an irreducible polynomial $f \in \mathbb{Z}[x]$ with $f(n) \ge 0$ for all $n \ge 0$,
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/975.lean]: The Erdős Problem website seems to work with different assumptions on `f` (namely `f` being at least `1` for sufficiently large `n`). Would you mind adding a comment saying from which source this formulation is coming from?

File: FormalConjectures/ErdosProblems/975.lean (hunk 1 above)
Comment (seewoo5) [reply FormalConjectures/ErdosProblems/975.lean]: Thanks! I think there are other Erdos files using `Finset.range` summation, such as 946 (which I did write following other Erdos file that I forget which one). I can make another PR for such minor updates later.

File: FormalConjectures/ErdosProblems/975.lean (hunk 3 above)
Comment (seewoo5) [reply FormalConjectures/ErdosProblems/975.lean]: The comment actually follows order statement of the website. I think the new one is better, so I'll update docstring accordingly.

File: FormalConjectures/ErdosProblems/975.lean [hunk 4]
```diff
@@ -0,0 +1,103 @@
...
+ - [T] T. Tao, Erdos' divisor bound, https://terrytao.wordpress.com/2011/07/23/erdos-divisor-bound/
+-/
+
+open Filter Real Polynomial
+open scoped ArithmeticFunction
+
+namespace Erdos975
+
+/-
+Sum of $\tau(f(n))$ for a function $f : \mathbb{N} \to \mathbb{N}$.
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/975.lean]:
```suggestion
Sum of $\tau(f(n))$ from `0` to `⌊x⌋` to for a function $f : \mathbb{N} \to \mathbb{N}$.
```

File: FormalConjectures/ErdosProblems/975.lean (hunk 1 above)
Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/975.lean]: That sounds great, thanks!

File: FormalConjectures/ErdosProblems/975.lean [hunk 5]
```diff
@@ -0,0 +1,103 @@
...
+def Erdos975Asymptotic (f : ℕ → ℕ) (c : ℝ) : Prop :=
+  Tendsto (fun x ↦ Erdos975Sum f x / (x * x.log)) atTop (nhds c)
+
+/--
+For an irreducible polynomial $f \in \mathbb{Z}[x]$ with $f(n) \ge 1$ for sufficiently large $n$,
+does there exists a constant $c = c(f) > 0$ such that
+$\sum_{n \le x} \tau(f(n)) \approx c \cdot x \log x$?
+-/
+@[category research open, AMS 11]
+theorem erdos_975 (f : ℕ → ℕ) (g : ℤ[X]) (hf : Erdos975NonnegIrredPoly f g) :
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/975.lean]: Here since the problem is stated as a question, I think it would be better to use the `answer(sorry)` convention.

Comment (seewoo5) [reply FormalConjectures/ErdosProblems/975.lean]: Updated!

File: FormalConjectures/ErdosProblems/975.lean [hunk 6]
```diff
@@ -0,0 +1,103 @@
...
+/-
+Sum of $\tau(f(n))$ from `0` to `⌊x⌋` to for a function $f : \mathbb{N} \to \mathbb{N}$.
+Here $\tau$ is the divisor counting function, which is `σ 0` in mathlib.
+-/
+noncomputable def Erdos975Sum (f : ℕ → ℕ) (x : ℝ) : ℝ :=
+  ∑ n ≤ ⌊x⌋₊, σ 0 (f n)
+
+/- Auxiliary definition for nonnegative irreducible polynomials over $\mathbb{Z}$ on $\mathbb{N}$. -/
+def Erdos975NonnegIrredPoly (f : ℕ → ℕ) (g : ℤ[X]) : Prop :=
+  Irreducible g ∧ ∃ N : ℕ, ∀ n ≥ N, f n = g.eval ↑n ∧ 0 ≤ f n
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/975.lean]: I would be tempted to remove this condition, and just do everything in terms of the polynomial `g` (and `g.eval` when you want to use the corresponding function!)

File: FormalConjectures/ErdosProblems/975.lean [hunk 7]
```diff
@@ -0,0 +1,103 @@
...
+
+/--
+For an irreducible polynomial $f \in \mathbb{Z}[x]$ with $f(n) \ge 1$ for sufficiently large $n$,
+does there exists a constant $c = c(f) > 0$ such that
+$\sum_{n \le x} \tau(f(n)) \approx c \cdot x \log x$?
+-/
+@[category research open, AMS 11]
+theorem erdos_975 (f : ℕ → ℕ) (g : ℤ[X]) (hf : Erdos975NonnegIrredPoly f g) :
+    (∃ (c : ℝ), 0 < c ∧ Erdos975Asymptotic f c) ↔ answer(sorry) := by
+  sorry
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/975.lean:57]: Here, I would recommend moving the quantification "inside". That way, replacing `sorry` by false will correspond to the negation of the statement.

File: FormalConjectures/ErdosProblems/975.lean [hunk 8]
```diff
@@ -0,0 +1,103 @@
...
+When $f$ is an irreducible quadratic polynomial, the question is answered first by Hooley [Ho63].
+More compact expression of the constant in terms of Hurwitz class numbers (when $a = 1$)
+is given by McKey in [Mc95], [Mc97], [Mc99].
+
+TODO: formalize Hurwitz class numbers and the expression of the constant in terms of them.
+-/
+@[category research solved, AMS 11]
+theorem erdos_975.variant.quadratic (f : ℕ → ℕ) (g : ℤ[X]) (hf : Erdos975NonnegIrredPoly f g)
+    (hg_degree : g.degree = 2) :
+    ∃ (c : ℝ), 0 < c ∧ Erdos975Asymptotic f c := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/975.lean]: Here you could possibly use `answer(sorry)` as a placeholder for `c` (and then later replace `sorry` by the actual closed form!)

File: FormalConjectures/ErdosProblems/975.lean (hunk 6 above)
Comment (seewoo5) [reply FormalConjectures/ErdosProblems/975.lean]: Do you have any suggestions? One issue is that `σ 0` is only defined on `ℕ`, so I cannot just use polynomials over integers (and I also want to consider something like $x^2 - 2$ since the result is known for all quadratic integral polynomials. One possible way is to extend the divisor sum function to `ℤ` by 0, which is equivalent to the original statement. Or maybe I misunderstood your comment!

Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/975.lean]: I would extend the divisor sum function to the integers by using `Int.toNat` to turn an integer `n` into the natural number `max n 0`

File: FormalConjectures/ErdosProblems/975.lean [hunk 9]
```diff
@@ -0,0 +1,103 @@
...
+-/
+noncomputable def Erdos975Sum (f : ℕ → ℕ) (x : ℝ) : ℝ :=
+  ∑ n ≤ ⌊x⌋₊, σ 0 (f n)
+
+/- Auxiliary definition for nonnegative irreducible polynomials over $\mathbb{Z}$ on $\mathbb{N}$. -/
+def Erdos975NonnegIrredPoly (f : ℕ → ℕ) (g : ℤ[X]) : Prop :=
+  Irreducible g ∧ ∃ N : ℕ, ∀ n ≥ N, f n = g.eval ↑n ∧ 0 ≤ f n
+
+def Erdos975Asymptotic (f : ℕ → ℕ) (c : ℝ) : Prop :=
+  Tendsto (fun x ↦ Erdos975Sum f x / (x * x.log)) atTop (nhds c)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/975.lean]: Could you drop all these definitions? I feel like they don't help understanding the statements, but instead obscure them

File: FormalConjectures/ErdosProblems/975.lean (hunk 7 above)
Comment (seewoo5) [reply FormalConjectures/ErdosProblems/975.lean:57]: I'm not sure if I understand your suggestion - could you elaborate?

File: FormalConjectures/ErdosProblems/975.lean (hunk 8 above)
Comment (seewoo5) [reply FormalConjectures/ErdosProblems/975.lean]: I updated, although I'm unsure if this is what you meant.

File: FormalConjectures/ErdosProblems/975.lean (hunk 9 above)
Comment (seewoo5) [reply FormalConjectures/ErdosProblems/975.lean]: Removed! I agree that it made things more complicated.

**Comment by seewoo5** [comment]
@Paul-Lez @YaelDillies Sorry for dragging this PR, I addressed some of your comments.

File: FormalConjectures/ErdosProblems/975.lean (hunk 7 above)
Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/975.lean:57]:
```suggestion
/--
For an irreducible polynomial $f \in \mathbb{Z}[x]$ with $f(n) \ge 1$ for sufficiently large $n$,
does there exists a constant $c = c(f) > 0$ such that
$\sum_{n \le x} \tau(f(n)) \approx c \cdot x \log x$?
-/
@[category research open, AMS 11]
theorem erdos_975 : answer(sorry) ↔
    \forall (f : ℕ → ℕ) (g : ℤ[X]), Erdos975NonnegIrredPoly f g → ∃ c > (0 : ℝ), Erdos975Asymptotic f c := by
  sorry
```
is roughly what Paul means

File: FormalConjectures/ErdosProblems/975.lean [hunk 10]
```diff
@@ -0,0 +1,101 @@
...
+When $f$ is an irreducible quadratic polynomial, the question is answered first by Hooley [Ho63].
+More compact expression of the constant in terms of Hurwitz class numbers (when $a = 1$)
+is given by McKey in [Mc95], [Mc97], [Mc99].
+
+TODO: formalize Hurwitz class numbers and the expression of the constant in terms of them.
+-/
+@[category research solved, AMS 11]
+theorem erdos_975.variant.quadratic (f : ℤ[X]) (hf : Irreducible f)
+    (hf_pos : ∀ᶠ n : ℕ in atTop, 1 ≤ f.eval ↑n) (hf_degree : f.degree = 2) (c : ℝ) :
+    c = answer(sorry) ∧ 0 < c ∧ Tendsto (fun x ↦ Erdos975Sum f x / (x * x.log)) atTop (nhds c) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/975.lean]: This is unprovable. I think you meant
```suggestion
    (hf_pos : ∀ᶠ n : ℕ in atTop, 1 ≤ f.eval ↑n) (hf_degree : f.degree = 2) (c : ℝ) :
    c = answer(sorry) → 0 < c ∧ Tendsto (fun x ↦ Erdos975Sum f x / (x * x.log)) atTop (nhds c) := by
```
instead?

File: FormalConjectures/ErdosProblems/975.lean (hunk 7 above)
Comment (seewoo5) [reply FormalConjectures/ErdosProblems/975.lean:57]: Thanks! I updated.

File: FormalConjectures/ErdosProblems/975.lean (hunk 10 above)
Comment (seewoo5) [reply FormalConjectures/ErdosProblems/975.lean]: Yes you're right, I updated.

File: FormalConjectures/ErdosProblems/975.lean [hunk 11]
```diff
@@ -0,0 +1,100 @@
...
+  ∑ n ≤ ⌊x⌋₊, σ 0 (f.eval ↑n).toNat
+
+/--
+For an irreducible polynomial $f \in \mathbb{Z}[x]$ with $f(n) \ge 1$ for sufficiently large $n$,
+does there exists a constant $c = c(f) > 0$ such that
+$\sum_{n \le x} \tau(f(n)) \approx c \cdot x \log x$?
+-/
+@[category research open, AMS 11]
+theorem erdos_975 : (∀ (f : ℤ[X]), Irreducible f → (∀ᶠ n : ℕ in atTop, 1 ≤ f.eval ↑n) →
+    (∃ c > (0 : ℝ), Tendsto (fun x ↦ Erdos975Sum f x / (x * x.log)) atTop (nhds c))) ↔
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/975.lean]:
```suggestion
    ∃ c > (0 : ℝ), Tendsto (fun x ↦ Erdos975Sum f x / (x * log x)) atTop (nhds c)) ↔
```

File: FormalConjectures/ErdosProblems/975.lean [hunk 12]
```diff
@@ -0,0 +1,100 @@
...
+    answer(sorry) := by
+  sorry
+
+/--
+The correctness of growth rate is shown in [Va39] (lower bound) and [Er52b] (upper bound).
+-/
+@[category research solved, AMS 11]
+theorem erdos_975.variant.upper_bound (f : ℤ[X]) (hf : Irreducible f)
+    (hf_pos : ∀ᶠ n : ℕ in atTop, 1 ≤ f.eval ↑n) : Erdos975Sum f =O[atTop] (fun x ↦ x * x.log) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/975.lean]:
```suggestion
    (hf_pos : ∀ᶠ n : ℕ in atTop, 1 ≤ f.eval ↑n) : Erdos975Sum f =O[atTop] (fun x ↦ x * log x) := by
```
Same below

File: FormalConjectures/ErdosProblems/975.lean [hunk 13]
```diff
@@ -0,0 +1,100 @@
...
+$\sum_{n \le x} \tau(f(n)) \approx c \cdot x \log x$?
+-/
+@[category research open, AMS 11]
+theorem erdos_975 : (∀ (f : ℤ[X]), Irreducible f → (∀ᶠ n : ℕ in atTop, 1 ≤ f.eval ↑n) →
+    (∃ c > (0 : ℝ), Tendsto (fun x ↦ Erdos975Sum f x / (x * x.log)) atTop (nhds c))) ↔
+    answer(sorry) := by
+  sorry
+
+/--
+The correctness of growth rate is shown in [Va39] (lower bound) and [Er52b] (upper bound).
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/975.lean]:
```suggestion
The correctness of the growth rate is shown in [Va39] (lower bound) and [Er52b] (upper bound).
```
maybe?
